US05972972
B. 4-methoxy-2-p-toluenesulfonyloxymethylpyridine
The 2-hydroxymethyl-4-methoxypyridine, (3.48 g, 0.024 mol) was dissolved in 50 ml CH2Cl2 and cooled to 0° C. The p-toluenesulfonyl chloride (5.7 g, 0.03 mol) was added followed by triethylamine (5 g), in 10 ml of CH2Cl2. After 15 minutes, the reaction was stirred at room temperature for one hour. The reaction was diluted with CH2Cl2 (200 ml) and washed with water. The organic layer was separated and dried with MgSO4, filtered and concentrated to afford 7.3 g of crude subtitle compound suitable for further use.

reactant | 2-hydroxymethyl-4-methoxypyridine | 0.024 mol, 3.48 g | OCC1=NC=CC(=C1)OC | C7H9NO2
reactant | p-toluenesulfonyl chloride | 0.03 mol, 5.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-methoxy-2-p-toluenesulfonyloxymethylpyridine | 7.3 g | COC1=CC(=NC=C1)COS(=O)(=O)C1=CC=C(C=C1)C | C14H15NO4S
